US07592343B2
SYNTHESIS OF 6-(4-BENZOTHIAZOL-2-YLPIPERAZIN-1-YL)PYRIDAZINE-3-CARBOXYLIC ACID (2-CYCLOPROPYLETHYL)AMIDE
Following the procedure as described in Example 2, making variation only as required to use 2-chlorobenzothiazole to replace 2-chlorobenzooxazole to react with 6-piperazin-1-yl-pyridazine-3-carboxylic acid (2-cyclopropylethyl)amide, the title compound was obtained as a white powder in 27% yield (0.040 g). 1H NMR (300 MHz, CDCl3) δ 8.07 (d, J=9.5 Hz, 1H), 7.99 (t, J=5.4 Hz, 1H), 7.59 (m, 2H), 7.32 (t, J=6.5 Hz, 1H), 7.12 (t, J=8.2 Hz, 1H), 7.03 (d, J=9.4 Hz, 1H), 3.94 (m, 4H), 3.81 (m, 4H), 3.53 (m, 2H), 1.50 (m 2H), 0.75 (m, 1H), 0.45 (m, 2H), 0.06 (m, 2H). MS (ES+) m/z 409.2 (M+1).

reactant | 2-chlorobenzothiazole | ClC=1SC2=C(N1)C=CC=C2 | C7H4ClNS
reactant | 2-chlorobenzooxazole | ClC=1OC2=C(N1)C=CC=C2 | C7H4ClNO
reactant | 6-piperazin-1-yl-pyridazine-3-carboxylic acid (2-cyclopropylethyl)amide | C1(CC1)CCNC(=O)C=1N=NC(=CC1)N1CCNCC1 | C14H21N5O
product | 6-(4-BENZOTHIAZOL-2-YLPIPERAZIN-1-YL)PYRIDAZINE-3-CARBOXYLIC ACID (2-CYCLOPROPYLETHYL)AMIDE | 27% yield | C1(CC1)CCNC(=O)C=1N=NC(=CC1)N1CCN(CC1)C=1SC2=C(N1)C=CC=C2 | C21H24N6OS
